US04115575
Analogously to the description in Example 11, 8.2 g (0.05 mol) of 2,3-dichloro-5-methyl-pyrazine, 11 g (0.05 mol) of 2-phenyl-3-isopropyl-5-hydroxymethyl-oxazolidine and 3.4 g of a 50% strength suspension of sodium hydride in paraffin oil give 2-chloro-3-(3'-isopropylamino-2'-hydroxy-propoxy)-5-methyl-pyrazine, melting point 109°-110° C. when crystallised from benzene. The fumarate prepared therefrom by means of fumaric acid crystallises from methanol-ether, melting point 164°-165° C.

reactant | 2,3-dichloro-5-methyl-pyrazine | 0.05 mol, 8.2 g | ClC1=NC=C(N=C1Cl)C | C5H4Cl2N2
reactant | 2-phenyl-3-isopropyl-5-hydroxymethyl-oxazolidine | 0.05 mol, 11 g | C1(=CC=CC=C1)C1OC(CN1C(C)C)CO | C13H19NO2
reactant | sodium hydride | [H-].[Na+]
product | 2-chloro-3-(3'-isopropylamino-2'-hydroxy-propoxy)-5-methyl-pyrazine | ClC1=NC=C(N=C1OCC(CNC(C)C)O)C | C11H18ClN3O2
